US04049717
Preparation of cis and trans-N-(1,2,3,4-tetrahydro-4-hydroxy-1-naphthyl)acetamide
A mixture of 19.2 g. of N-(1,2,3,4-tetrahydro-4-oxo-1-naphthyl)acetamide and 275 ml. of absolute ethanol is stirred under a nitrogen atmosphere and 3.58 g. sodium borohydride added. The reaction mixture is stirred at room temperature for 16 hours, then 200 ml. of water is added and the stirring continued for 4 hours. Next, the reaction mixture is evaporated to dryness in vacuo and the residue treated with 250 ml. of water. The mixture is cooled in an ice bath and acidified with concentrated hydrochloric acid. The precipitated yellow solid is collected and dried; weight 6 g., m.p. 120°-127° C.

reactant | N-(1,2,3,4-tetrahydro-4-oxo-1-naphthyl)acetamide | O=C1CCC(C2=CC=CC=C12)NC(C)=O | C12H13NO2
reactant | ethanol | C(C)O | C2H6O
reactant | sodium borohydride | [BH4-].[Na+]
solvent | water | O | H2O
product | trans-N-(1,2,3,4-tetrahydro-4-hydroxy-1-naphthyl)acetamide | O[C@@H]1CC[C@H](C2=CC=CC=C12)NC(C)=O | C12H15NO2
